US06288082B1
7-(3-Chloropropoxy)-4-(1H-indazol-6-ylamino)-6-methoxyquinoline-3-carbonitrile
The title compound was prepared by the procedure of Example 166 using 0.311 g of 7-(3-chloro-propoxy)-4-chloro-6-methoxy-quinoline-3-carbonitrile, 0.147 g of 6-aminoimidazole, 0.128 g of pyridine hydrochloride and 12 ml of ethoxyethanol to give 0.367 g (90%) of the desired product. MP 280-285° C. mass spectrum (electrospray m/e): M+H=407.9.

reactant | 7-(3-chloro-propoxy)-4-chloro-6-methoxy-quinoline-3-carbonitrile | 0.311 g | ClCCCOC1=C(C=C2C(=C(C=NC2=C1)C#N)Cl)OC | C14H12Cl2N2O2
reactant | 6-aminoimidazole | 0.147 g | C1=CC2=C(C=C1N)NN=C2 | C7H7N3
reactant | pyridine hydrochloride | 0.128 g | Cl.N1=CC=CC=C1
reactant | ethoxyethanol | 12 ml | C(C)OC(C)O | C4H10O2
product | 7-(3-Chloropropoxy)-4-(1H-indazol-6-ylamino)-6-methoxyquinoline-3-carbonitrile | 0.367 g, 90% | ClCCCOC1=C(C=C2C(=C(C=NC2=C1)C#N)NC1=CC=C2C=NNC2=C1)OC | C21H18ClN5O2
